US04801705
(A) 1-[[(3,4-Dihydroxyphenyl)methylene]amino]-2-imidazolidinone
To a solution of 61.4 g (0.446 mol) of 1-amino-2-imidazolidinone hydrochloride in 300 ml of 80% aqueous ethanol were added 223 ml of 2N sodium hydroxide (0.446 mol) and a solution of 61.6 g (0.446 mol) of 3,4-dihydroxybenzaldehyde in 300 ml of 80% aqueous ethanol. The mixture was stirred for 20 minutes at room temperature, and the precipitate filtered off by suction, washed with ethanol and dried in vacuo (yield: 34.5 g; melting point 257° C., dec).

reactant | 1-amino-2-imidazolidinone hydrochloride | 0.446 mol, 61.4 g | Cl.NN1C(NCC1)=O
reactant | sodium hydroxide | 0.446 mol, 2N, 223 ml | [OH-].[Na+]
reactant | 3,4-dihydroxybenzaldehyde | 0.446 mol, 61.6 g | OC=1C=C(C=O)C=CC1O | C7H6O3
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1-[[(3,4-Dihydroxyphenyl)methylene]amino]-2-imidazolidinone | OC=1C=C(C=CC1O)C=NN1C(NCC1)=O | C10H11N3O3
